US06750231B2
3,4-Dimethyl-1-(2-phenoxyethyl)-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine
To a solution of 3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine (Preparation 44, 50 mg, 0.20 mmol) in N,N-dimethylformamide (6 mL) was added commercially available 2-(bromoethoxy)benzene (43 mg, 0.22 mmol) and sodium hydrogencarbonate (48 mg, 0.56 mmol). The resultant mixture was heated to 80° C. and stirred overnight. The reaction mixture was cooled, poured onto saturated aqueous sodium hydrogencarbonate solution (100 mL) and extracted with ethyl acetate (3×20 mL). The combined extracts were dried over MgSO4, filtered and concentrated in vacuo to give an off-white gum. The crude product was partially purified by chromatography on a 5 g silica Waters Sep-Pak3 eluting with dichloromethane and then 5% methanol in dichloromethane. The pure fractions were collected to give the title compound as a clear oil as a clear gum (10 mg, 13.6%).

reactant | 3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine | 0.20 mmol, 50 mg | CC1CNCCC1(C1=CC(=CC=C1)C=1N=NNC1)C | C15H20N4
reactant | 2-(bromoethoxy)benzene | 0.22 mmol, 43 mg | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | sodium hydrogencarbonate | 0.56 mmol, 48 mg | C(O)([O-])=O.[Na+]
reactant | sodium hydrogencarbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 3,4-Dimethyl-1-(2-phenoxyethyl)-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine | 10 mg, 13.6% | CC1CN(CCC1(C1=CC(=CC=C1)C=1N=NNC1)C)CCOC1=CC=CC=C1 | C23H28N4O
